US04273932
Synthesis of 4,5-Dihydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid Ethyl Ester
4-Hydroxy-5,6,7,8-tetrahydro-5-oxo-3-quinolinecarboxylic acid ethyl ester (11.5 g) was suspended in 600 ml of methyl alcohol, and 1.1 g of sodium boron hydride (NaBH4) was added to the suspension with its internal temperature kept at 20°-25° C. After completion of the reaction, the methyl alcohol was distilled off under reduced pressure and 200 ml of water was added to the residue. The resulting solution was adjusted to pH 2.4 with dilute hydrochloric acid and stirred for 30 minutes. Then, under cooling, the solution was adjusted to pH 6.5 with dilute aqueous sodium hydroxide and stirred for 30 minutes. The precipitate so formed was separated by filtration to obtain a yield of 10.4 g of the desired compound. This compound melted at 182°-183° C. (uncorrected values). Its infrared absorption spectrum (KBr tablet) had absorption peaks at 3440, 3160, 2960, 1730, 1655, 1540, 1305, and 1190 cm-1, and its n.m.r. spectrum (CF3COOH, 60Mc, TMS) had signals at δ values of 1.52 (3H, t, J=6.8 Hz), 1.9-2.4 (4H, m), 2.9-3.3 (2H, m), 4.64 (2H, q, J=6.8 Hz), 5.48 (1H, bs), and 8.95 (1H, d, J=6.0 Hz).

reactant | 4-Hydroxy-5,6,7,8-tetrahydro-5-oxo-3-quinolinecarboxylic acid ethyl ester | 11.5 g | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)=O | C12H13NO4
reactant | sodium boron hydride | 1.1 g | B.[Na]
solvent | methyl alcohol | 600 ml | CO | CH4O
product | 4,5-Dihydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylic Acid Ethyl Ester | yield of 10.4 g | C(C)OC(=O)C=1C=NC=2CCCC(C2C1O)O | C12H15NO4
